US08461182B2
Step R1-4: To a solution of tert-butyl 4-aminopiperidine-1-carboxylate (150 g) and Et3N (209 mL) in IPA (1.0 L) was added 3-methoxybenzoyl chloride (102 mL) over 40 minutes under ice cooling. The mixture was stirred at room temperature for 2 hours. After cooling to 0° C., 12 M aqueous HCl (0.5 L) was added to the mixture over 30 minutes and the mixture was stirred at 50° C. for 1 hour. After cooling to 0° C., 12 M aqueous NaOH (0.5 L) and water (0.4 L) were added over 40 minutes to the reaction mixture. The organic layer was separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated to obtain 3-methoxy-N-(piperidin-4-yl)benzamide as a light brown solid (160 g).

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 150 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-methoxybenzoyl chloride | 102 mL | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | HCl | 12 M, 0.5 L | Cl | ClH
reactant | NaOH | 12 M, 0.5 L | [OH-].[Na+]
solvent | IPA | 1.0 L | CC(C)O | C3H8O
solvent | water | 0.4 L | O | H2O
solvent | Et3N | 209 mL | CCN(CC)CC | C6H15N
product | 3-methoxy-N-(piperidin-4-yl)benzamide | 160 g | COC=1C=C(C(=O)NC2CCNCC2)C=CC1 | C13H18N2O2
